US08053440B2
To a solution of 2-amino-4,6-dichloro-benzoic acid (0.5 g, 2.43 mmol) in THF (22 mL) under nitrogen atmosphere was added successively N-(3-Dimehtylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.51 g, 2.67 mmol), N-hydroxybenzotriazole (0.36 g, 2.67 mmol) and N-methylmorpholine (0.3 mL, 2.67 mmol). The mixture was stirred for 1.5 h before a 50% ammonium hydroxide solution (1.03 mL, 14.58 mmol) was added. The mixture was stirred overnight. The solvent was evaporated under reduced pressure, water (20 mL) was added and the solution was extracted with EtOAc (50 mL×2). The combined organic layers were washed with water, brine, dried over sodium sulfate and evaporated under reduced pressure to provide crude yellow solid (0.45 g). The crude product was triturated with ether to give pure 2-amino-4,6-dichlorobenzamide (0.41 g, 82%). A mixture of 2-amino-4,6-dichloro-benzamide (0.2 g, 0.97 mmol), 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3,5-dimethylbenzaldehyde (0.3 g, 0.97 mmol), sodium hydrogensulfite (0.11 g, 1.05 mmol) and p-toluenesulfonic acid (0.093 g, 0.48 mmol) in N,N-dimethyl acetamide (8 mL) was stirred at 150° C. overnight under nitrogen atmosphere. The reaction mixture was cooled to room temperature, the solvent was evaporated under reduced pressure, then water (70 mL) was added and the precipitate was collected, and washed with water, dried under vacuum and triturated with ether to provide the crude mixture of 2-[4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3,5-dimethyl-phenyl]-5,7-dichloro-3H-quinazolin-4-one and 5,7-dichloro-2-[4-(2-hydroxy-ethoxy)-3,5-dimethylphenyl]-3H-quinazolin-4-one (0.298 g), which was used as such in the next step. To the above described mixture (0.298 g, 0.59 mmol) in tetrahydrofurane (5 mL) was added tetrabutylammonium fluoride (2.35 mL, 2.35 mmol) under nitrogen atmosphere. The reaction mixture was stirred overnight before the solvent was evaporated under reduced pressure and water was added to obtain a precipitate. The solid was filtered off, washed with water, dried under vacuum and triturated with ether to provide crude yellow solid (0.226 g, 98%). The crude was purified twice by flash column chromatography to give pure 5,7-dichloro-2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)quinazolin-4(3H)-one (0.069 g, 19%). Selected data: MS (ES) m/z: 378.92, 380.88, 382.89; MP 260.8-262.6° C.

reactant | 2-amino-4,6-dichloro-benzoic acid | 2.43 mmol, 0.5 g | NC1=C(C(=O)O)C(=CC(=C1)Cl)Cl | C7H5Cl2NO2
reactant | N-(3-Dimehtylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.67 mmol, 0.51 g | Cl.CN(CCCN=C=NCC)C
reactant | N-hydroxybenzotriazole | 2.67 mmol, 0.36 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 2.67 mmol, 0.3 mL | CN1CCOCC1 | C5H11NO
reactant | ammonium hydroxide | 14.58 mmol, 1.03 mL | [OH-].[NH4+]
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | 2-amino-4,6-dichlorobenzamide | 0.41 g, 82% | NC1=C(C(=O)N)C(=CC(=C1)Cl)Cl | C7H6Cl2N2O
